US06734191B2
2-Hydroxy-4-methylbenzonitrile was prepared following a modification of the procedure reported by Makoto Adachi and Tsutomu Sugasawa (Synthetic Communications 1990, 20, 71-84.). To a cold (0° C.) solution of BCl3 (1.0 M in heptane, 12.0 mL, 12.0 mmol) in 1,2-dichloroethane was added neat m-cresol (1.00 mL, 9.56 mmol) followed by CH3SCN (0.83 mL, 12.1 mmol) and AlCl3 (1.38 g, 10.4 mmol). The cooling bath was removed and the resultant mixture was heated to 80° C. for 3 hours then cooled to room temperature. The mixture was poured into 4 N NaOH (35 mL) and the mixture was heated at 80° C. for 45 minutes then cooled to room temperature. The phases were separated and the aqueous phase was extracted with CH2Cl2 (3×50 mL). The aqueous phase was acidified with 6 N HCl (30 mL) and extracted with diethyl ether (3×50 mL). The combined ether extracts were dried (MgSO4) and concentrated. Purification of the crude material by column chromatography on silica gel (20:1 CH2Cl2-EtOAc) provided 1.16 g (91%) of 2-Hydroxy-4-methylbenzonitrile as a white solid. 1H NMR (CDCl3) δ2.36 (s, 3H), 6.20 (br s, 1H), 6.79-6.81 (m, 2H), 7.38 (d, 1H, J=9 Hz).

reactant | BCl3 | 12.0 mmol, 1.0 M, 12.0 mL | B(Cl)(Cl)Cl | BCl3
reactant | m-cresol | 9.56 mmol, 1.00 mL | C1=C(C=CC=C1O)C | C7H8O
reactant | CH3SCN | 12.1 mmol, 0.83 mL | CSC#N | C2H3NS
reactant | AlCl3 | 10.4 mmol, 1.38 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-Hydroxy-4-methylbenzonitrile | 1.16 g, 91% | OC1=C(C#N)C=CC(=C1)C | C8H7NO
